US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-(2-methyl-1-{4-[3-(3-methyl-[1,2,4]oxadiazol-5-yl)-propoxy]-benzoyl}-1,2,3,4-tetrahydro-quinolin-4-yl)-acetamide was prepared from (2S,4R)-4-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid methyl ester. Acetamide oxime (0.043 g, 0.58 mmol) was suspended in THF under N2 and NaH (60% dispersion in oil) (0.025 g, 1.0 mmol) was added followed by 4A° molecular sieves and heated to 60° C. for 1 h. (2S,4R)-4-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid methyl ester was added and heated to reflux for 4.5 h. The reaction was filtered and concentrated down and partitioned between CH2Cl2 and water. The aqueous layer was extracted 3×CH2Cl2 and dried over MgSO4, filtered, concentrated and purified by silica gel chromatography (100% EtOAc) to afford (2S,4R)-N-(4-Chloro-phenyl)-N-(2-methyl-1-{4-[3-(3-methyl-[1,2,4]oxadiazol-5-yl)-propoxy]-benzoyl}-1,2,3,4-tetrahydro-quinolin-4-yl)-acetamide in 44% yield.

reactant | (2S,4R)-4-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid methyl ester | COC(CCCOC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)=O | C30H31ClN2O5
reactant | Acetamide oxime | 0.58 mmol, 0.043 g | C(C)(N)=NO | C2H6N2O
reactant | NaH | 1.0 mmol, 0.025 g | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | (2S,4R)-N-(4-Chloro-phenyl)-N-(2-methyl-1-{4-[3-(3-methyl-[1,2,4]oxadiazol-5-yl)-propoxy]-benzoyl}-1,2,3,4-tetrahydro-quinolin-4-yl)-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCC1=NC(=NO1)C)=O)C | C31H31ClN4O4
